US07863444B2
Benzylisocyanate (24 uL, 0.194 mmol) in dichloromethane (1 mL) was added dropwise to a stirring solution of 5-(4-amino-3-methoxyphenyl)-7-cyclopentyl-7H-pyrrolo[2,3-d]pyrimidin-4-amine (50 mg, 0.155 mmol) in N,N-diisopropylethylamine (153 uL, 0.881 mmol) and methylene chloride (2 mL) under nitrogen. The resulting mixture was stirred for 24 hours. The solvent was evaporated and the solid was purified by preparative TLC using dichloromethane/methanol (95:5) as the mobile phase to give N-(4-(4-amino-7-cyclopentyl-7H-pyrrolo[2,3-d]pyrimidin-5-yl)-2-methoxyphenyl)-N′-benzylurea. 1H NMR (CDCl3) δ 1.78 (m, 2H), 1.90 (m, 4H), 2.26 (m, 2H), 3.86 (s, 3H), 4.48 (d, J=6 Hz, 3H), 5.24 (m, 4H), 6.93 (s, 1H), 6.98 (s, 1H), 7.00 (s, 1H), 7.04 (d, J=8 Hz, 1H), 7.29 (m, 5H), 8.17 (d, J=8 Hz, 1H), 8.31 (s, 1H); LC/MS (MH+=457).

reactant | Benzylisocyanate | 0.194 mmol, 24 uL | C(C1=CC=CC=C1)N=C=O | C8H7NO
reactant | 5-(4-amino-3-methoxyphenyl)-7-cyclopentyl-7H-pyrrolo[2,3-d]pyrimidin-4-amine | 0.155 mmol, 50 mg | NC1=C(C=C(C=C1)C1=CN(C=2N=CN=C(C21)N)C2CCCC2)OC | C18H21N5O
reactant | N,N-diisopropylethylamine | 0.881 mmol, 153 uL | C(C)(C)N(C(C)C)CC | C8H19N
solvent | dichloromethane | 1 mL | ClCCl | CH2Cl2
solvent | methylene chloride | 2 mL | C(Cl)Cl | CH2Cl2
product | N-(4-(4-amino-7-cyclopentyl-7H-pyrrolo[2,3-d]pyrimidin-5-yl)-2-methoxyphenyl)-N′-benzylurea | NC=1C2=C(N=CN1)N(C=C2C2=CC(=C(C=C2)NC(=O)NCC2=CC=CC=C2)OC)C2CCCC2 | C26H28N6O2
